US08686147B2
1a) Ethyl 3-(2-nitrophenyl)propanoate
A solution of 2-nitrobenzaldehyde (132 mmol; 20.0 g) in absolute ethanol (220 ml) was added to a mixture of triethylphosphonium acetate (159 mmol; 35.7 g; 31.9 ml) and anhydrous potassium carbonate (397 mmol; 54.9 g). The mixture was refluxed with vigorous stirring for 1 hour 30 minutes. After cooling, the ethanol was removed under reduced pressure, water (500 ml) was added and the resulting solution was extracted with ethyl acetate (3×300 ml). The combined organic phases were washed with saturated NaCl solution (3×300 ml), dried over anhydrous sodium sulfate and evaporated under reduced pressure. The crude product obtained was purified on a column of alumina (eluting with chloroform) to give 27.6 g (94%) of final product:

reactant | 2-nitrobenzaldehyde | 132 mmol, 20.0 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | triethylphosphonium acetate | 159 mmol, 31.9 ml, 35.7 g | C(C)(=O)[O-].C(C)[PH+](CC)CC
reactant | potassium carbonate | 397 mmol, 54.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 220 ml | C(C)O | C2H6O
product | Ethyl 3-(2-nitrophenyl)propanoate | 27.6 g, 94% | [N+](=O)([O-])C1=C(C=CC=C1)CCC(=O)OCC | C11H13NO4
